data/oMe_Silver.jsonl
{"reaction_id": "NR-138_1-C(F)(F)F_2-c1ccc(OC)cc1_3-c1cnccc1_4-c1ccc(OC)cc1_5-C(Br)(Br)Br_6-c1ccc(OC)cc1","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)C(F)(F)F)(c1ccc(OC)cc1)(c1cnccc1)","C(=O)(c1ccc(OC)cc1)(C(Br)(Br)Br)","Nc1ccc(OC)cc1"],"products_smiles": ["C(C(=O)C(F)(F)F)(c1ccc(OC)cc1)(c1cnccc1)C(c1ccc(OC)cc1)(C(Br)(Br)Br)Nc1ccc(OC)cc1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])C(F)(F)F)(c1ccc(OC)cc1)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(c1ccc(OC)cc1)=C(O)C(F)(F)F","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])C(F)(F)F)(c1ccc(OC)cc1)(c1cnccc1)C(c1ccc(OC)cc1)(C(Br)(Br)Br)Nc1ccc(OC)cc1","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)C(F)(F)F)(c1ccc(OC)cc1)(c1cnccc1)C(c1ccc(OC)cc1)(C(Br)(Br)Br)Nc1ccc(OC)cc1","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
{"reaction_id": "NR-202_1-c1ccccc1_2-c1ccccc1_3-CC=CC","level": "medium","name": "Neber Rearrangement","reactants_smiles": ["C(c1ccccc1)(c1ccccc1)C(=NOS(=O)(=O)c1ccc(C)cc1)CC=CC"],"products_smiles": ["CC=CCC(=O)C(c1ccccc1)(c1ccccc1)N"],"conditions": "Base, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C-](c1ccccc1)(c1ccccc1)C(=NOS(=O)(=O)c1ccc(C)cc1)CC=CC","step_weight": 0,"rationale": "The base abstracts the relatively acidic alpha-proton due to resonance stabilization of the resulting carbanion by the adjacent oxime group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC=CCC2=NC(c1ccccc1)(c1ccccc1)2","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the oxime nitrogen intramolecularly, forming a strained azirine ring and displacing the tosylate, a good leaving group stabilized by resonance."},{"step": 3,"type": "rearrangement","subtype": "rearrangement","intermediate_smiles": "C(CC=CC)2(C(c1ccccc1)(c1ccccc1)[N-]2)O","step_weight": 0,"rationale": "Water adds to the electrophilic azirine carbon, driven by ring strain relief and polarization of the C–N bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC=CC)2(C(c1ccccc1)(c1ccccc1)[NH]2)[O-]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to nitrogen stabilizes the intermediate, favored in aqueous medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CC=CCC(C(c1ccccc1)(c1ccccc1)[NH-])=O","step_weight": 0,"rationale": "Elimination of hydroxide from the intermediate occurs to form the carbonyl, driven by the stability of the ketone and the good leaving ability of hydroxide under these conditions."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC=CCC(=O)C(c1ccccc1)(c1ccccc1)N","step_weight": 0,"rationale": "Final protonation of the nitrogen yields the neutral alpha-amino ketone, favored under aqueous conditions for product stability."}],"description": "Under basic aqueous conditions, the alpha-proton adjacent to the oxime tosylate is deprotonated, enabling intramolecular cyclization to an azirine via tosylate departure. Subsequent hydrolytic ring opening, proton transfers, and rearrangement yield the thermodynamically stable alpha-amino ketone."}
